US06299631B1
Preparation of a 96/4 ε-Caprolactone/Glycolide Copolymer
Glycolide (0.08865 moles) was mixed with ε-caprolactone (1.455 moles) and a catalytic amount of stannous octoate (0.3 moles) and tartaric acid (0.075 moles). The system was heated at 150° C. and was stirred at this temperature for 6 hours. At the conclusion of the reaction, the unreacted monomer was removed by heating at 120° C. under reduced pressure for 30 minutes. The resulting polymer had a peak melting temperature of 49.1° C. as measured by DSC and an Mw of 151,948 as measured by GPC.

reactant | Glycolide | 0.08865 moles | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | ε-caprolactone | 1.455 moles | C1(CCCCCO1)=O | C6H10O2
reactant | stannous octoate | 0.3 moles | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | tartaric acid | 0.075 moles | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
product | ε-Caprolactone Glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
